US05358964
A solution of (E)-3-[[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]methylene]-4,5-dihydro-2(3H)-furanone (386 mg, 1.11 mmol) and Lawesson's Reagent (273 mg, 0.68 mmol) in 15 mL of toluene is heated at reflux for 1.5 hours. The solution is concentrated in vacuo and purified by flash chromatography eluting with hexane:ethyl acetate (3:1) to provide 188 mg (47%) of (E)-3-[[2-[(2,6-dichloro-3-methylphenyl)amino]-phenyl]methylene]-4,5-dihydro-2(3H) - furanthione; mp = 163°-165° C. dec.

reactant | (E)-3-[[2-[(2,6-dichloro-3-methylphenyl)amino]phenyl]methylene]-4,5-dihydro-2(3H)-furanone | 1.11 mmol, 386 mg | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)\C=C/1\C(OCC1)=O | C18H15Cl2NO2
reactant | Lawesson's Reagent | 0.68 mmol, 273 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[[2-[(2,6-dichloro-3-methylphenyl)amino]-phenyl]methylene]-4,5-dihydro-2(3H) - furanthione | 188 mg, 47% | ClC1=C(C(=CC=C1C)Cl)NC1=C(C=CC=C1)\C=C/1\C(OCC1)=S | C18H15Cl2NOS
